US04970115
(b) Preparation of bis(2-acetoxyethyl)diphenyltin:
Diphenyltin dihydride and vinyl acetate were introduced in stoichiometric amount into a Pyrex® tube containing anhydrous cyclohexane. The reaction mixture was exposed to ultraviolet rays for 1 hour at 30° C. The solvent was then removed under vacuum at ambient temperature. The product, obtained quantitatively, had the following formula:

reactant | Diphenyltin dihydride | C1(=CC=CC=C1)[SnH2]C1=CC=CC=C1
reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | bis(2-acetoxyethyl)diphenyltin | C(C)(=O)OCC[Sn](C1=CC=CC=C1)(C1=CC=CC=C1)CCOC(C)=O | InChI=1S/2C6H5.2C4H7O2.Sn/c2*1-2-4-6-5-3-1;2*1-3-6-4(2)5;/h2*1-5H;2*1,3H2,2H3;
